US07994164B2
(E)-2-((3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a stirred mixture of (E)-11-(bromomethylene)-3-fluoro-6,11-dihydrodibenzo[b,e]oxepine (49 mmol, 15 g) and bis(pinacolato)diboron (64 mmol, 16 g) in 1,4-dioxane (250 mL) add potassium acetate (150 mmol, 15 g). Flush the mixture with nitrogen, add dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct (2.46 mmol, 1.80 g), and heat at 65° C. overnight. Cool to room temperature, filter through diatomaceous earth, wash with ethyl acetate and concentrate the filtrate in vacuo. Add methanol (200 mL) and rotate the mixture for one hour on a rotory evaporator without vacuum causing a brown solid to form. Collect the dark brown crystals by filtration and dry under vacuum overnight to obtain the title compound (7.28 g, 42%). Concentrate the filtrate and purify by column chromatography eluting with 0% to 16% ethyl acetate in hexanes to obtain the title compound as a yellow solid (3.46 g, 20%). Total yield for the reaction is 10.7 g (62%). 1H NMR (300 MHz, CDCl3) δ 7.36 (dd, J=8.8, 6.8 Hz, 1H), 7.32-7.27 (m, 4H), 6.64-6.57 (m, 1H), 6.48 (dd, J=10.3, 2.6 Hz, 1H), 5.98 (s, 1H), 5.20 (br s, 1H), 1.15 (s, 12H).

reactant | (E)-11-(bromomethylene)-3-fluoro-6,11-dihydrodibenzo[b,e]oxepine | 49 mmol, 15 g | Br\C=C/1\C2=C(OCC3=C1C=CC=C3)C=C(C=C2)F | C15H10BrFO
reactant | bis(pinacolato)diboron | 64 mmol, 16 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 150 mmol, 15 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct | 2.46 mmol, 1.80 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (E)-2-((3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.28 g, 42% | FC=1C=CC\2=C(OCC3=C(/C2=C\B2OC(C(O2)(C)C)(C)C)C=CC=C3)C1 | C21H22BFO3
